US06376662B1
To a solution of methyl 2,4,6-tri-O-benzyl-3-deoxy-3-C-(hydroxymethyl)-α-D-galacto-hexopyranoside (5.13 g, 10.72 mmol) in 25 ml of dry DMSO, 5.0 g of DCC and 0.5 ml H3PO4 were added. The mixture was stirred overnight at room temperature. The reaction mixture was treated with water (100 ml), and extracted several times with ethyl acetate. The combined organic extracts were washed with a saturated sodium hydrogen carbonate solution, dried with MgSO4 and concentrated in vacua. Purification of the crude product by flash chromatography with petroleum ether/ethyl acetate (4:1) gave 4.9 g (94%) methyl 2,4,6-tri-O-benzyl-3-deoxy-3-C-(formyl)-α-D-galacto-hexopyranoside as a colorless oil. —TLC (petroleum ether/ethyl acetate, 4:1): Rf=0.36.

reactant | methyl 2,4,6-tri-O-benzyl-3-deoxy-3-C-(hydroxymethyl)-α-D-galacto-hexopyranoside | 10.72 mmol, 5.13 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1CO)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C29H34O6
reactant | DCC | 5.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H3PO4 | 0.5 ml | OP(=O)(O)O | H3O4P
reactant | water | 100 ml | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | methyl 2,4,6-tri-O-benzyl-3-deoxy-3-C-(formyl)-α-D-galacto-hexopyranoside | 4.9 g, 94% | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1C=O)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C29H32O6
